US08003662B2
Step C: Preparation of 1-(4-fluorophenyl)-3-methyl-2-oxopyrrolidine-3-carboxylic acid:
LiOH (1.2 mL, 1.19 mmol, 1.0 M in H2O) was added to a solution of methyl 1-(4-fluorophenyl)-3-methyl-2-oxopyrrolidine-3-carboxylate (0.149 g, 0.593 mmol) in a mixture of THF (4.5 mL) and MeOH (1.5 mL) at room temperature for 1 hour. The reaction mixture was acidified with aq. 1 N HCl solution (1.4 mL), extracted with EtOAc, washed with brine, dried over MgSO4, and concentrated to afford the desired product (0.13 g, 92%). 1H-NMR (400 MHz, CD3OD) δ 7.62 (m, 2H), 7.13 (t, 2H), 3.97 (m, 1H), 3.86 (m, 1H), 2.63 (m, 1H), 2.13 (m, 1H), 1.47 (s, 3H); 19F NMR (376 MHz, CD3OD) δ −119.3.

reactant | LiOH | 1.19 mmol, 1.0 M, 1.2 mL | [Li+].[OH-]
reactant | methyl 1-(4-fluorophenyl)-3-methyl-2-oxopyrrolidine-3-carboxylate | 0.593 mmol, 0.149 g | FC1=CC=C(C=C1)N1C(C(CC1)(C(=O)OC)C)=O | C13H14FNO3
reactant | HCl | 1 N, 1.4 mL | Cl | ClH
solvent | THF | 4.5 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1.5 mL | CO | CH4O
product | 1-(4-fluorophenyl)-3-methyl-2-oxopyrrolidine-3-carboxylic acid | 0.13 g, 92% | FC1=CC=C(C=C1)N1C(C(CC1)(C(=O)O)C)=O | C12H12FNO3
